US06982348B2
4-fluoro-N-((1RS,2SR)-2-hydroxy-2-(4-methoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-methoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.38 mmol) in acetonitrile (20 ml) was added 4-fluoronaphthalenecarboxylic acid (263 mg, 1.38 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (397 mg, 2.08 mmol) and 1-hydroxy-1H-benzotriazole (212 mg, 1.38 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (558 mg, 81%).

reactant | (1RS,2SR)-2-amino-1-(4-methoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.38 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)C(F)(F)F | C17H18F3NO2
reactant | 4-fluoronaphthalenecarboxylic acid | 1.38 mmol, 263 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.08 mmol, 397 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.38 mmol, 212 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-((1RS,2SR)-2-hydroxy-2-(4-methoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 558 mg, 81% | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(C1=CC=C(C=C1)OC)O)CC1=CC=C(C=C1)C(F)(F)F | C28H23F4NO3
